US05753673
While maintaining at 0° to 5° C., a solution of 140 g of sodium borohydride in 500 ml of 0.5% sodium hydroxide aqueous solution was dropwise added over 2 hours to a solution mixture of 150 g of 2-aminobenzyl alcohol, 300 g of sodium acetate trihydrate, 850 ml of acetic acid, 950 ml of water, 275 ml of ethanol and 500 ml of acetone. Stirring was continued at the same temperature for an hour. Thereafter the reaction mixture was neutralized with potassium carbonate, followed by extraction with hexane. The organic layer was washed with water and then with saturated sodium chloride aqueous solution. The solvent was distilled off under vacuum. Distillation under vacuum gave 142 g of 2-isopropylaminobenzyl alcohol.

reactant | sodium borohydride | 140 g | [BH4-].[Na+]
reactant | 2-aminobenzyl alcohol | 150 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | sodium acetate trihydrate | 300 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | ethanol | 275 ml | C(C)O | C2H6O
solvent | water | 950 ml | O | H2O
solvent | acetic acid | 850 ml | C(C)(=O)O | C2H4O2
product | 2-isopropylaminobenzyl alcohol | 142 g | C(C)(C)NC1=C(CO)C=CC=C1 | C10H15NO
